US07741341B2
2-Trichloromethyl-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester was prepared by a procedure according to example 100 (i) from 500 mg (1.85 mmol) 3,4-diamino-5-(2,2,2-trifluoro-ethoxy)-thiophene-2-carboxylic acid methyl ester and 328.0 μl (2.59 mmol) 2,2,2-trichloro-acetimidic acid methyl ester.

reactant | 3,4-diamino-5-(2,2,2-trifluoro-ethoxy)-thiophene-2-carboxylic acid methyl ester | 1.85 mmol, 500 mg | COC(=O)C=1SC(=C(C1N)N)OCC(F)(F)F | C8H9F3N2O3S
reactant | 2,2,2-trichloro-acetimidic acid methyl ester | 2.59 mmol, 328.0 μl | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
product | 2-Trichloromethyl-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester | COC(=O)C=1SC(=C2N=C(NC21)C(Cl)(Cl)Cl)OCC(F)(F)F | C10H6Cl3F3N2O3S
